US08685970B2
A mixture of methyl 2-(pyridin-3-yl)quinazoline-8-carboxylate (3.5 g, 13.2 mmol) and LiOH (0.48 g, 19.8 mmol) in 1:1 THF/H2O (50 mL) was stirred at 50° C. for 2 hours. The solvent was removed in vacuo and water (20 mL) was added. Aqueous solution was adjusted to pH=3 with 1N aqueous hydrochloride solution. The mixture was extracted with ethyl acetate (3×50 mL). The combined organic layers were dried (Na2SO4), concentrated in vacuo, and purified by silica gel column chromatography (2.5% MeOH in CH2Cl2) to obtain 2-(pyridin-3-yl)quinazoline-8-carboxylic acid (3.0 g, 90% yield).

reactant | methyl 2-(pyridin-3-yl)quinazoline-8-carboxylate | 13.2 mmol, 3.5 g | N1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=N1)C(=O)OC | C15H11N3O2
reactant | LiOH | 19.8 mmol, 0.48 g | [Li+].[OH-]
solvent | THF H2O | 50 mL | C1CCOC1.O
product | 2-(pyridin-3-yl)quinazoline-8-carboxylic acid | 3.0 g, 90% yield | N1=CC(=CC=C1)C1=NC2=C(C=CC=C2C=N1)C(=O)O | C14H9N3O2
